US03996232
A stirred mixture of 6.9 g (0.035 mole) of p-trifluoromethylbenzylamine hydrochloride and 4.3 (0.035 mole) of 1-i-propyl-3-cyanoguanidine is immersed in a 180° C oil bath for 1 hour. The melt is cooled and dissolved in 35 ml of hot water. The solution is cooled in an ice bath, made alkaline with 40% sodium hydroxide solution, and extracted with 150 ml of ether. The ether layer is dried over potassium carbonate, filtered and the ether solution made strongly acidic with a saturated ethereal hydrochloric acid solution. The precipitate is washed twice with 25 ml of anhydrous ether and recrystallized from a mixture of ethanol and heptane (3:5) to obtain 1-(p-trifluoromethylbenzyl)-5-i-propylbiguanide dihydrochloride.

reactant | p-trifluoromethylbenzylamine hydrochloride | 0.035 mole, 6.9 g | Cl.FC(C1=CC=C(CN)C=C1)(F)F
reactant | 1-i-propyl-3-cyanoguanidine | C(C)(C)NC(=N)NC#N | C5H10N4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 35 ml | O | H2O
product | 1-(p-trifluoromethylbenzyl)-5-i-propylbiguanide dihydrochloride | Cl.Cl.FC(C1=CC=C(CNC(=N)NC(=N)NC(C)C)C=C1)(F)F | InChI=1S/C13H18F3N5.2ClH/c1-8(2)20-12(18)21-11(17)19-7-9-3-5-10(6-4-9)13(14,15)16;;/h3-6,8H,7H2,1-2H3,(H5,17,18,19,20,21);2*1H
